US08048887B2
3-(Benzyloxy)-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid
To a mixture of methyl 3-(benzyloxy)-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoate (0.3 g, 0.57 mmol, 1 eq) in a 1:1 mixture of MeOH/THF at ambient temperature was added 5 eq. of NaOH, and the resulting mixture was heated to 60° C. for 5 h. The mixture was cooled to ambient temperature and then cooled in ice-water bath. The reaction mixture was acidified with 1.5 N HCl and then concentrated. The mixture with white precipitates was diluted with water and filtered to get the solid. It is further washed with water and dried in vacuum. Yield: 0.2 g (70%). 1H NMR (400 MHz, DMSO-d6): δ 2.19 (s, 3H), 2.82-2.83 (d, 3H, J=4.56 Hz), 5.27 (s, 2H), 7.34-7.46 (m, 6H), 7.50-7.55 (m, 4H), 7.60 (s, 1H), 7.75-7.77 (d, 1H, J=8.44 Hz), 7.99-8.03 (m, 2H), 8.49-8.50 (d, 1H), 13.0 (s, 1H). LCMS: (ES+) m/z=510 (M+H). Ascentis Express C18 (5.0×2.1-2.7 μm). Mphase A: 2% MeCN-98% H2O-10 mM NH4COOH. Mphase B: 98% MeCN-2% H2O-10 mM NH4COOH. Flow: 5 ml/Min.

reactant | methyl 3-(benzyloxy)-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoate | 0.57 mmol, 0.3 g, 1 eq | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=C(C1C)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1 | C32H26FNO5
reactant | NaOH | 5 eq. | [OH-].[Na+]
reactant | HCl | 1.5 N | Cl | ClH
solvent | MeOH THF | CO.C1CCOC1
product | 3-(Benzyloxy)-5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=C(C1C)C=1C=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(NC)=O)C1 | C31H24FNO5
